US05451678
175 μl (2.4 mmol) of thionyl chloride were added to a solution of 414 mg (2 mmol) of 3(S)-azido-4-phenyl-1,2(S)-butanediol [prepared as described in Example 2(vi)]in 5 ml of carbon tetrachloride and the mixture was heated under reflux for 30 minutes with calcium chloride drying tube protection. The resulting solution was cooled in an ice bath, 5 ml of acetonitrile, 5 mg of ruthenium-(III) chloride trihydrate, 642 mg (3 mmol) of sodium metaperiodate and 7.5 ml of water were added in succession and the mixture was stirred vigorously at room temperature for 1 hour. The mixture was treated with 20 ml of diethyl ether and 20 ml of water, the phases were separated and the aqueous phase was extracted twice with diethyl ether. The organic phases were combined and washed with water, saturated aqueous sodium bicarbonate solution and sodium chloride solution. After drying over anhydrous magnesium sulphate, filtration through diatomaceous earth and evaporation of the filtrate there were obtained 518 mg of 4(S)-[1(S)-azido-2-phenylethyl]-1,3,2-dioxathiolane 2,2-dioxide; MS: m/e 270 [M+H]+.

reactant | thionyl chloride | 2.4 mmol, 175 μl | S(=O)(Cl)Cl | Cl2OS
reactant | 3(S)-azido-4-phenyl-1,2(S)-butanediol | 2 mmol, 414 mg | N(=[N+]=[N-])[C@H]([C@@H](CO)O)CC1=CC=CC=C1 | C10H13N3O2
reactant | carbon tetrachloride | C(Cl)(Cl)(Cl)Cl | CCl4
reactant | sodium metaperiodate | 3 mmol, 642 mg | I(=O)(=O)(=O)[O-].[Na+]
catalyst | ruthenium-(III) chloride trihydrate | 5 mg | O.O.O.[Ru](Cl)(Cl)Cl
solvent | water | 20 ml | O | H2O
solvent | diethyl ether | 20 ml | C(C)OCC | C4H10O
solvent | water | 7.5 ml | O | H2O
solvent | acetonitrile | 5 ml | C(C)#N | C2H3N
product | 4(S)-[1(S)-azido-2-phenylethyl]-1,3,2-dioxathiolane 2,2-dioxide | 518 mg | N(=[N+]=[N-])[C@@H](CC1=CC=CC=C1)[C@@H]1OS(OC1)(=O)=O | C10H11N3O4S
